US04451660
Preparation of 2-methylthio-3-nitro-5-cyanothiophene
A sodium methyl mercaptide solution was prepared by adding 5 ml of methylmercaptan to 1.75 g of Na in 60 ml of absolute ethanol. While stirring and cooling this solution to below 10° C. it was added to a solution of 17.6 g of 2-bromo-3-nitro-5-formylthiophene in 200 ml of ethanol. After stirring at room temperature for another 2 hours, 200 ml of water were added, after which the formed precipitate was sucked off, washed with water-ethanol mixture (1:1 v/v), and recrystallized from isopropanol. 6.5 g of 2-methylthio-3-nitro-5-formylthiophene of melting point 129°-131° C. were obtained. Then 2.35 g of NaHCO3, 3.1 g of 2-methylthio-3-nitro-5-formylthiophene, and 1.2 g of NH2OH.HCl were added successively to 50 ml of formic acid. The reaction mixture was refluxed for 1 hour, after which, water was added and the formed precipitate was sucked off. After recrystallization from isopropanol the desired 2-methylthio-3-nitro-5-cyanthiophene was obtained in a yield of 2.3 g; melting point 150° C.

reactant | NaHCO3 | 2.35 g | C(=O)(O)[O-].[Na+]
reactant | 2-methylthio-3-nitro-5-formylthiophene | 3.1 g | CSC=1SC(=CC1[N+](=O)[O-])C=O | C6H5NO3S2
reactant | NH2OH.HCl | 1.2 g | NO.Cl
reactant | formic acid | 50 ml | C(=O)O | CH2O2
solvent | water | O | H2O
product | 2-methylthio-3-nitro-5-cyanothiophene | CSC=1SC(=CC1[N+](=O)[O-])C#N | C6H4N2O2S2
